US06153652
Synthesis of 2-[(3-nitrophenyl)acetamido]butyric acid iso-butyl ester
Following General Procedure I' above and using 3-nitrophenylacetic acid (Aldrich) and iso-butyl 2-aminobutyrate (prepared following General Procedure J' above), the title compound was prepared. The reaction was monitored by tlc on silica gel and purification was by filtration as described in the general procedure.

reactant | 3-nitrophenylacetic acid | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)O | C8H7NO4
reactant | iso-butyl 2-aminobutyrate | NC(C(=O)OCC(C)C)CC | C8H17NO2
product | 2-[(3-nitrophenyl)acetamido]butyric acid iso-butyl ester | C(C(C)C)OC(C(CC)NC(CC1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C16H22N2O5
